US07718693B2
1-ethyl-5-oxoproline (0.100 g, 0.64 mmol) was dissolved in a mixture of dichloromethane (3 ml) and dimethylformamide (0.5 ml) and to this was added N-(3-dimethylaminopropyl)-N′-ethylcarbodiimide hydrochloride (0.147 g, 0.77 mmol), 1-hydroxybenzotriazole (0.104 g, 0.77 mmol), and N-ethyl morpholine (0.244 ml, 1.92 mmol). The mixture was stirred for 10 minutes and then 2-chloro-4-fluorobenzylamine was added to the mixture and stirring continued overnight (˜16 hrs) at room temperature. The mixture was then treated with saturated aqueous sodium hydrogen carbonate (˜2 ml) and stirred vigorously for ˜10 minutes. The aqueous layer was removed using a phase separator and extracted with more dichloromethane (2×1 ml). The combined organic layers were concentrated to give a yellow oil and this was subsequently purified by mass-directed automated HPLC to give N-[(2-chloro-4-fluorophenyl)methyl]-1-ethyl-5-oxo-D-prolinamide (0.065 g) as a white solid. LC/MS [M+H]+=299, retention time=2.16 minutes.

reactant | 1-ethyl-5-oxoproline | 0.64 mmol, 0.100 g | C(C)N1[C@H](C(=O)O)CCC1=O | C7H11NO3
reactant | N-(3-dimethylaminopropyl)-N′-ethylcarbodiimide hydrochloride | 0.77 mmol, 0.147 g | Cl.CN(CCCN=C=NCC)C
reactant | 1-hydroxybenzotriazole | 0.77 mmol, 0.104 g | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | N-ethyl morpholine | 1.92 mmol, 0.244 ml | C(C)N1CCOCC1 | C6H13NO
reactant | 2-chloro-4-fluorobenzylamine | ClC1=C(CN)C=CC(=C1)F | C7H7ClFN
reactant | sodium hydrogen carbonate | ˜2 ml | C(O)([O-])=O.[Na+]
solvent | dichloromethane | 3 ml | ClCCl | CH2Cl2
solvent | dimethylformamide | 0.5 ml | CN(C=O)C | C3H7NO
product | N-[(2-chloro-4-fluorophenyl)methyl]-1-ethyl-5-oxo-D-prolinamide | 0.065 g | ClC1=C(C=CC(=C1)F)CNC([C@@H]1N(C(CC1)=O)CC)=O | C14H16ClFN2O2
